US06114390
c) (R)-N-[[4-[[[Amino(cyanoimino)methyl]amino]methyl]phenyl]-methyl]-N2 -(diphenylacetyl)-argininamide-acetate
Prepared analogously to Example 1d) from (R)-N-[[4-[[[amino-(cyanoimino)methyl]amino]methyl]phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithinamide by catalytic hydrogenation in the presence of palladium/activated charcoal and using methanol as solvent. After final purification by column chromatography on silica gel (Macherey-Nagel, 0.063-0.2 mm) using n-butanol/glacial acetic acid/water=4/1/1 (v/v/v) as eluant, the desired compound is obtained as a colourless, amorphous-glassy substance in a yield of 5.9% of theory.

reactant | (R)-N-[[4-[[[amino-(cyanoimino)methyl]amino]methyl]phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithinamide | NC(=NC#N)NCC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(=N[N+](=O)[O-])N)=O | C30H34N10O4
reactant | methanol | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (R)-N-[[4-[[[Amino(cyanoimino)methyl]amino]methyl]phenyl]-methyl]-N2 -(diphenylacetyl)-argininamide acetate | yield of 5.9% | NC(=NC#N)NCC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(N)=N)=O.C(C)(=O)[O-] | InChI=1S/C30H35N9O2.C2H4O2/c31-20-38-30(34)37-19-22-15-13-21(14-16-22)18-36-27(40)25(12-7-17-35-29(32)33)39-28(41)26(23-8-3-1-4-9-23)24-10-5-2-6-11-24;1-2(3)4/h1-6,8-11,13-16,25-26H,7,12,17-19H2,(H,36,40)(H,39,41)(H4,32,33,35)(H3,34,37,38);1H3,(H,3,4)/p-1/t25-;/m1./s1
